US04075199
To a solution of 42 grams (0.64 moles) of 85% potassium hydroxide in 100 ml. of water, cooled to 15° C in a 2 liter jacketed reactor was added 81 grams (0.81 moles) of 90% t-butylhydroperoxide slowly and with rapid stirring. The temperature was held at 20°-25° C by the rate of addition and by circulating 15° C water through the reactor jacket. After the addition was complete, the reaction was stirred for 30 minutes at 20° C and then 118 grams (0.58 moles) of 1-t-butylazo-1-chlorocyclohexane was added dropwise over a 30 minute period holding the temperature at 20°-22° C. After the addition was complete the reaction was stirred for 15 minutes at 20° C. It was then cooled to 0°-5° C and stirred for 90 minutes. A 0.2 mole (16 grams) portion of 50% NaOH was then added and the reaction stirred for 15 minutes. Ice water was then added until the potassium chloride dissolved. The mixture was extracted with 200ml. of pentane, the pentane extract washed with ice cold water saturated NaHCO3 solution, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure at 10° C to leave 130 grams (88% yield) of crude 1-t-butylazo-1-(t-butylperoxy)-cyclohexane. The product was stored in a dry ice chest.

reactant | potassium hydroxide | 0.64 moles, 42 grams | [OH-].[K+]
reactant | t-butylhydroperoxide | 0.81 moles, 81 grams | C(C)(C)(C)OO | C4H10O2
reactant | 1-t-butylazo-1-chlorocyclohexane | 0.58 moles, 118 grams | C(C)(C)(C)N=NC1(CCCCC1)Cl | C10H19ClN2
reactant | NaOH | [OH-].[Na+]
reactant | potassium chloride | [Cl-].[K+]
solvent | water | O | H2O
product | 1-t-butylazo-1-(t-butylperoxy)-cyclohexane | 130 grams, 88% yield | C(C)(C)(C)N=NC1(CCCCC1)OOC(C)(C)C | C14H28N2O2
